US07205326B2
To a solution of 4-(4-[1,2,3]triazol-1-yl-butyl)-phenylamine (15 g, 69.35 mmol) in THF (75 ml) at 0° C. lithium hexamethyldisilazide (138.75 ml, 1M in THF) was added dropwise and the mixture warmed to room temperature. A solution of di-t-butyl-dicarbonate (13.62 g, 62.4 mmol) in THF (75 ml) was then added dropwise and stirring continued for 30 min. For workup saturated ammonium chloride solution was added, the mixture extracted with ethyl acetate, dried over sodium sulfate and concentrated. The crude product was crystallized with ether and purified by column chromatography (ethyl acetate 100%) yielding 17.1 g (78%) [4-(4-[1,2,3]triazol-1-yl-butyl)-phenyl]-carbamic acid tert-butyl ester as light yellow solid.

reactant | 4-(4-[1,2,3]triazol-1-yl-butyl)-phenylamine | 69.35 mmol, 15 g | N1(N=NC=C1)CCCCC1=CC=C(C=C1)N | C12H16N4
reactant | lithium hexamethyldisilazide | 1M, 138.75 ml | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | di-t-butyl-dicarbonate | 62.4 mmol, 13.62 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 75 ml | C1CCOC1 | C4H8O
solvent | THF | 75 ml | C1CCOC1 | C4H8O
product | [4-(4-[1,2,3]triazol-1-yl-butyl)-phenyl]-carbamic acid tert-butyl ester | 17.1 g, 78% | C(C)(C)(C)OC(NC1=CC=C(C=C1)CCCCN1N=NC=C1)=O | C17H24N4O2
